US06380218B1
N-(2-Chloro-benzyl)-2-(2,4-difluoro-phenoxy)-nicotinamide
To a stirred solution of 2-(2,4-difluoro-phenoxy)-nicotinic acid (0.300 grams, 1.19 mmole) and NMM (0.133 grams, 1.31 mmole) in dry methylene chloride (15 ml) at −10° C. was added isobutyl chloroformate (0.202 grams, 1.31 mmole). After 20 minutes at −10° C. 2-chlorobenzylamine (0.202 grams, 1.43 mmole) was added and the mixture was allowed to warm to room temperature over night. The mixture was poured into water and extracted with ethyl acetate. The combined organics were washed with 1 N NaOH, water and brine, dried over MgSO4, filtered and concentrated to give a clear oil that was purified by chromatography on silica gel eluting with 30% ethyl acetate/hexane to give a solid. Recrystalization from ethyl acetate/hexane gave a solid (0.295 g). M.P. 122-124° C.; Anal. calcd. for C19H13N2O2F2Cl: C, 60.89; H, 3.50; N, 7.47. Found: C, 60.77; H, 3.44; N, 7.38.

reactant | 2-(2,4-difluoro-phenoxy)-nicotinic acid | 1.19 mmole, 0.300 grams | FC1=C(OC2=C(C(=O)O)C=CC=N2)C=CC(=C1)F | C12H7F2NO3
reactant | NMM | 1.31 mmole, 0.133 grams | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 1.31 mmole, 0.202 grams | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-chlorobenzylamine | 1.43 mmole, 0.202 grams | ClC1=C(CN)C=CC=C1 | C7H8ClN
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(2-Chloro-benzyl)-2-(2,4-difluoro-phenoxy)-nicotinamide | 0.295 g | ClC1=C(CNC(C2=C(N=CC=C2)OC2=C(C=C(C=C2)F)F)=O)C=CC=C1 | C19H13ClF2N2O2
